US03975443
To a solution of 1-[1-(Ethylaminomethyl)cyclohexyl]-4-methyl piperazine (1.5 g.,) in ether (20 ml) was added excess of ethereal HCl. The suspension was evaporated to dryness and the residual oil was re-evaporated with ethanol/ether (x2). The residue was dissolved in a minimum amount of hot ethanol, the solution was cooled and excess isopropanol was added. The solid which separated was filtered and crystallised from ethanol/isopropanol to give 1-[1-(Ethylaminomethyl)cyclohexyl]-4-methyl piperazine, dihydrochloride (0.15 g.) m.p. 231°-234°.

reactant | 1-[1-(Ethylaminomethyl)cyclohexyl]-4-methyl piperazine | 1.5 g | C(C)NCC1(CCCCC1)N1CCN(CC1)C | C14H29N3
reactant | HCl | Cl | ClH
solvent | ether | 20 ml | CCOCC | C4H10O
product | 1-[1-(Ethylaminomethyl)cyclohexyl]-4-methyl piperazine, dihydrochloride | 0.15 g | Cl.Cl.C(C)NCC1(CCCCC1)N1CCN(CC1)C | InChI=1S/C14H29N3.2ClH/c1-3-15-13-14(7-5-4-6-8-14)17-11-9-16(2)10-12-17;;/h15H,3-13H2,1-2H3;2*1H
